US06028223
Preparation of N-[2- [[[3-[(aminoiminomethyl)amino]phenyl]carbonyl]amino]acetyl]-β-alanine, ethyl ester
N,N'-Disuccinimidyl carbonate (DSC) (1.4 g, 0.5 mmol) was added to GIHA (1.0 g, 0.5 mmol) in dry dimethylformamide (20 mL) followed by dimethylaminopyridine (100 mg). After a period of 1 hour beta-alanine ethyl ester hydrochloride (0.7 g, 0.5 mmol) in DMF/NMM (1:1) (5.0 mL) was added in one portion. The product was purified by reverse phase chromatography (water/acetonitrile) to result in 1.1 mg of a white solid. MS and 1H-NMR were consistent with proposed structure.

reactant | N,N'-Disuccinimidyl carbonate | 0.5 mmol, 1.4 g | C1CC(=O)N(C1=O)OC(=O)ON2C(=O)CCC2=O | C9H8N2O7
reactant | dimethylaminopyridine | 100 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | beta-alanine ethyl ester hydrochloride | 0.5 mmol, 0.7 g | Cl.C(C)OC(CCN)=O
reactant | DMF NMM | 5.0 mL | CN(C)C=O.CN1CCOCC1
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | N-[2- [[[3-[(aminoiminomethyl)amino]phenyl]carbonyl]amino]acetyl]-β-alanine, ethyl ester | 1.1 mg | NN=CNC=1C=C(C=CC1)C(=O)NCC(=O)NCCC(=O)OCC | C15H21N5O4
